US07199147B2
Under a nitrogen atmosphere, n-propyl iodide (257 μl, 2.64 mmol) and cesium carbonate (860 mg, 2.64 mmol) were added to a solution of 1-tetrahydro-2H-pyran-2-yl-5-(tetrahydro-2H-pyran-2-yloxy)-1H-indazol-4-ol (700 mg, 2.20 mmol) in N,N-dimethylformamide (7 ml) at room temperature. After 2 hours, the reaction solution was poured into water and extracted with ethyl acetate. The extract solution was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate) to obtain 4-propoxy-1-tetrahydro-2H-pyran-2-yl-5-(tetrahydro-2H-pyran-2-yloxy)-1H-indazole (852.6 mg).

reactant | n-propyl iodide | 2.64 mmol, 257 μl | C(CC)I | C3H7I
reactant | cesium carbonate | 2.64 mmol, 860 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-tetrahydro-2H-pyran-2-yl-5-(tetrahydro-2H-pyran-2-yloxy)-1H-indazol-4-ol | 2.20 mmol, 700 mg | O1C(CCCC1)N1N=CC=2C(=C(C=CC12)OC1OCCCC1)O | C17H22N2O4
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | 4-propoxy-1-tetrahydro-2H-pyran-2-yl-5-(tetrahydro-2H-pyran-2-yloxy)-1H-indazole | 852.6 mg | C(CC)OC1=C2C=NN(C2=CC=C1OC1OCCCC1)C1OCCCC1 | C20H28N2O4
